US03932416
N-(1H-Tetrazol-5-yl)quinaldamide
Quinaldic acid (1.1 g) in tetrahydrofuran (50 ml) containing dimethylformamide (5 ml) was treated with a solution of N,N'-carbonyl diimidazole (1 g) in tetrahydrofuran (40 ml) containing dimethylformamide (5 ml). After 3 hours, 5-aminotetrazole (0.65 g) in dimethylformamide (30 ml) was added and the resulting solution was stirred for 2 days at room temperature. The solvent was distilled off under reduced pressure to give an oil which solidified on trituration with water, m.p. 258° (d).

reactant | Quinaldic acid | 1.1 g | C(C1=NC2=CC=CC=C2C=C1)(=O)O | C10H7NO2
reactant | 5-aminotetrazole | 0.65 g | NC1=NN=NN1 | CH3N5
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(1H-Tetrazol-5-yl)quinaldamide | N1N=NN=C1NC(C1=NC2=CC=CC=C2C=C1)=O | C11H8N6O
